US07825256B2
Potassium carbonate (700 mg, 5.20 mmol) and 2-chloroacetaldehyde (400 mg, 5.20 mmol) were added sequentially to a solution of 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-3-thiocarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester (400 mg, 1.04 mmol) in DME (10 mL) at rt under an atmosphere of N2. The reaction mixture was stirred at room temperature for 16 h then filtered under vacuum. The filtrate was concentrated and the residue dissolved in DME (10 mL) prior to cooling to 0° C. Trifluoroacetic anhydride (655 mg, 3.12 mmol) and pyridine (575 mg, 7.28 mmol) were added and reaction mixture was stirred at rt for 4 h. The mixture was concentrated and the residue was diluted with DCM (20 mL). The solution was washed with water (2×30 mL), dried over Na2SO4, filtered and concentrated. The crude product was purified using column chromatography (DCM to 9:1 DCM/MeOH) to afford 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-3-thiazol-2-yl-pyrrolidine-1-carboxylic acid tert-butyl ester as a yellow oil (200 mg, 50%).

reactant | Potassium carbonate | 5.20 mmol, 700 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroacetaldehyde | 5.20 mmol, 400 mg | ClCC=O | C2H3ClO
reactant | 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-3-thiocarbamoyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.04 mmol, 400 mg | C(C)(C)(C)OC(=O)N1C(C(CC1)C(N)=S)C1=NC(=NC(=C1)C)N1C=NC=C1 | C18H24N6O2S
reactant | Trifluoroacetic anhydride | 3.12 mmol, 655 mg | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 7.28 mmol, 575 mg | N1=CC=CC=C1 | C5H5N
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 2-(2-imidazol-1-yl-6-methyl-pyrimidin-4-yl)-3-thiazol-2-yl-pyrrolidine-1-carboxylic acid tert-butyl ester | 200 mg, 50% | C(C)(C)(C)OC(=O)N1C(C(CC1)C=1SC=CN1)C1=NC(=NC(=C1)C)N1C=NC=C1 | C20H24N6O2S
